US06353006B1
2-Methyl-4-nitrophenyl isothiocyanate was reacted with isobutylamine followed by 2-chloro-3-methylbutanoic acid according to Method C8a to afford 2-(2-methyl-4-nitrophenylimino)-3-isobutyl-5-isopropyl-1,3-thiazolidin-4-one.

reactant | 2-Methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | 2-chloro-3-methylbutanoic acid | ClC(C(=O)O)C(C)C | C5H9ClO2
product | 2-(2-methyl-4-nitrophenylimino)-3-isobutyl-5-isopropyl-1,3-thiazolidin-4-one | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC(C(N1CC(C)C)=O)C(C)C | C17H23N3O3S
